US04877808
Following the procedure described in Preparation I and starting from 13.3 g (0.059 mol) of 2-cyanophenyl 4-hydroxyphenyl methanone and 8.5 g (0.068 mol) of dimethylthiocarbamoyl chloride, 16.5 g (yield: 89%) of O-4-(2-cyanobenzoyl)phenyl dimethylthiocarbamate melting at 138° C. are obtained.

reactant | 2-cyanophenyl 4-hydroxyphenyl methanone | 0.059 mol, 13.3 g | C(#N)C1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)O | C14H9NO2
reactant | dimethylthiocarbamoyl chloride | 0.068 mol, 8.5 g | CN(C(=S)Cl)C | C3H6ClNS
product | O-4-(2-cyanobenzoyl)phenyl dimethylthiocarbamate | 16.5 g, yield: 89% | CN(C(OC1=CC=C(C=C1)C(C1=C(C=CC=C1)C#N)=O)=S)C | C17H14N2O2S
